US04511391
A solution of sodium hydroxide (0.15 g) in water and then ethoxyamine hydrochloride (0.37 g) were added to a solution of 3-hydroxy-5-(3,4-methylenedioxyphenyl)-2-propionylcyclohex-2-en-1-one (1.0 g) in ethanol (40 ml) The mixture was stirred at room temperature and the progress of the reaction was monitored by thin layer chromatography (eluant dichloromethane). On completion of the reaction the solvent was removed by distillation under reduced pressure. The residue was dissolved in dichloromethane and the organic phase was washed with water and dried over anhydrous sodium sulphate. The solvent was evaporated to give 2-[1-(ethoxyimino)propyl]-3-hydroxy-5-(3,4-methylenedioxyphenyl)cyclohex-2-en-1-one as an oil.

reactant | sodium hydroxide | 0.15 g | [OH-].[Na+]
reactant | ethoxyamine hydrochloride | 0.37 g | Cl.C(C)ON
reactant | 3-hydroxy-5-(3,4-methylenedioxyphenyl)-2-propionylcyclohex-2-en-1-one | 1.0 g | OC1=C(C(CC(C1)C1=CC2=C(C=C1)OCO2)=O)C(CC)=O | C16H16O5
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-[1-(ethoxyimino)propyl]-3-hydroxy-5-(3,4-methylenedioxyphenyl)cyclohex-2-en-1-one | C(C)ON=C(CC)C=1C(CC(CC1O)C1=CC2=C(C=C1)OCO2)=O | C18H21NO5
